US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,4-dimethoxyphenylsulfinyl)-ethyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,4-dimethoxyphenylthio)-ethyl]-methylamine and hydrogen peroxide analogously to Example 4.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,4-dimethoxyphenylthio)-ethyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCSC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C26H36N2O5S
reactant | hydrogen peroxide | OO | H2O2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,4-dimethoxyphenylsulfinyl)-ethyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCS(=O)C2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C26H36N2O6S
